US06277989B1
Synthesis of 4-(4-pyridylamino)-2-phenyl Quinazoline
4-Chloro-2-phenyl quinazoline, 1 equivalent, was treated with 1 equivalent 4-aminopyridine and 1 equivalent potassium carbonate in dimethylformamide (DMF), under reflux for 4 hours. The reaction mixture was cooled to room temperature and concentrated under vacuum to an oil. This crude material was dissolved in ethyl acetate and chromatographed using hexane:ethyl acetate:methanol 8:2:0.5 to obtain solid product. Electron impact mass spectroscopy (EIMS) gave a molecular ion corresponding to the calculated molecular weight of the title compound.

reactant | 4-Chloro-2-phenyl quinazoline | ClC1=NC(=NC2=CC=CC=C12)C1=CC=CC=C1 | C14H9ClN2
reactant | 4-aminopyridine | 1 equivalent | NC1=CC=NC=C1 | C5H6N2
reactant | potassium carbonate | 1 equivalent | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4-(4-pyridylamino)-2-phenyl Quinazoline | N1=CC=C(C=C1)NC1=NC(=NC2=CC=CC=C12)C1=CC=CC=C1 | C19H14N4
